* ZMPT101B voltage-sensing front-end -> STM32 ADC (PA0)
* -----------------------------------------------------
* Mains 230 Vrms / 50 Hz is sensed through a ZMPT101B, a 2 mA : 2 mA
* precision current transformer for voltage measurement:
*   - R1 limits primary current: 230 V / 100k = 2.3 mArms
*   - the 1:1 CT mirrors that current into the secondary
*   - R2 converts it back to a voltage: 2.3 mA * 330R = 0.76 Vrms
*     (peak 1.07 V around the 1.65 V bias -> 0.58..2.72 V at the ADC,
*     leaving headroom up to ~280 Vrms mains before clipping)
*   - the secondary is galvanically isolated, so its cold end is tied
*     straight to the 1.65 V mid-rail bias (R3/R4 divider, stiffened by
*     C1) — no AC-coupling capacitor needed, no settling transient
*   - R5/C2 is the anti-aliasing RC (fc = 1/(2*pi*1k*100n) = 1.6 kHz;
*     firmware samples at 5 kHz, well above fc, mains harmonics pass)
*
* Run:  ngspice -b zmpt101b_frontend.cir
* Outputs: RMS/min/max at the ADC node + adc_v.txt sample dump.

* --- mains source ---
Vmains  mains 0     SIN(0 325.27 50)        ; 230 Vrms = 325.27 Vpk, 50 Hz

* --- ZMPT101B: primary limiter + 1:1 coupled transformer ---
R1      mains p1    100k                    ; primary current-limit resistor
* 100 H magnetizing inductance: the ZMPT101B is a precision measurement
* transformer; too little Lm makes the burden current lead by
* atan(Rb/(w*Lm)) and corrupts the power-factor measurement.
Lpri    p1    0     100H
Lsec    s1    bias  100H                    ; isolated secondary rides on bias
Kzmpt   Lpri  Lsec  0.9999                  ; near-ideal 1:1 CT
R2      s1    bias  330                     ; burden -> 0.76 Vrms

* --- 3.3 V rail and mid-rail bias ---
Vdd     vdd   0     DC 3.3
R3      vdd   bias  10k
R4      bias  0     10k
C1      bias  0     10u                     ; stiffens the bias rail

* --- anti-aliasing filter into the ADC pin ---
R5      s1    adc_v 1k
C2      adc_v 0     100n                    ; ADC pin PA0

.tran 20u 300m 100m                         ; skip 100 ms of bias settling

.control
run
meas tran vrms   RMS v(adc_v) from=200m to=300m
meas tran vmax   MAX v(adc_v) from=200m to=300m
meas tran vmin   MIN v(adc_v) from=200m to=300m
meas tran vbias  AVG v(adc_v) from=200m to=300m
wrdata adc_v.txt v(adc_v)
.endc
.end
